US06384080B1
To a solution of 5-nitro-N-(1,3-benzodioxol-5-ylmethyl)-2-(tetrahydro-2H-thiopyran-4-ylamino)benzamide (50.0 mg) in anhydrous dichloromethane (1 mL) was added m-chloroperbenzoic acid (41.5 mg), and the mixture was stirred for 4 hours at ambient temperature. To the mixture were added an aqueous saturated sodium thiosulfate solution and an aqueous sodium bicarbonate solution. The resulting precipitates were collected by filtration and washed with water, methanol and ethyl acetate to give 2-(1,1-dioxotetrahydro-2H-thiopyran-4-ylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (40.0 mg).

reactant | 5-nitro-N-(1,3-benzodioxol-5-ylmethyl)-2-(tetrahydro-2H-thiopyran-4-ylamino)benzamide | 50.0 mg | [N+](=O)([O-])C=1C=CC(=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C1)NC1CCSCC1 | C20H21N3O5S
reactant | m-chloroperbenzoic acid | 41.5 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-(1,1-dioxotetrahydro-2H-thiopyran-4-ylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 40.0 mg | O=S1(CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-])=O | C20H21N3O7S
